### PR TITLE
feat(NumberTheory/Fibonacci): Fibonacci numbers modulo a prime

### PR DESCRIPTION
**Pull request by bally65**
For a prime p ≠ 2: F_p ≡ (5/p) (mod p), hence p ∣ F_{p-1} when (5/p) = 1 and p ∣ F_{p+1} when (5/p) = -1 (Lucas, 1878), plus the p % 5 forms via quadratic reciprocity. Proof in (ZMod p)[X]/(X^2 - X - 1) via Frobenius; no case split on (5/p).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Fibonacci.lean [hunk 1]
```diff
@@ -0,0 +1,283 @@
...
+with basis `1, α` (whether or not `X ^ 2 - X - 1` splits), comparing coefficients yields
+`F_p = 5 ^ (p / 2)` and `2 F_{p - 1} = 1 - 5 ^ (p / 2)` in `ZMod p`; Euler's criterion
+identifies `5 ^ (p / 2)` with `(5 / p)`. No case distinction on `(5 / p)` is needed.
+
+The converse of the divisibility statements fails: `323 = 17 * 19` divides `F_{324}`
+(such composites are the Fibonacci pseudoprimes).
+
+## Tags
+
+fibonacci, legendre symbol, frobenius, lucas sequence
```
Comment (Julian-Kuelshammer) [inline Mathlib/NumberTheory/Fibonacci.lean]: Why are names lowercase here? Why is it fibonacci without sequence, but lucas with sequence?

File: Mathlib/NumberTheory/Fibonacci.lean [hunk 2]
```diff
@@ -0,0 +1,283 @@
...
+public import Mathlib.RingTheory.AdjoinRoot
+public import Mathlib.Tactic.ComputeDegree
+public import Mathlib.Tactic.LinearCombination
+
+/-!
+# Fibonacci numbers modulo a prime
+
+For a prime `p ≠ 2` we prove the classical congruence `F_p ≡ (5 / p) (mod p)`, where
+`(5 / p)` is the Legendre symbol, together with its consequences `p ∣ F_{p - 1}` when
+`(5 / p) = 1` and `p ∣ F_{p + 1}` when `(5 / p) = -1` (Lucas, 1878). By quadratic reciprocity
```
Comment (Julian-Kuelshammer) [inline Mathlib/NumberTheory/Fibonacci.lean:21]: What about adding this as a reference to the reference file? Is this the paper this formalisation is based on or is there a more modern approach on which this is based? If yes, such should be referred to as well.

File: Mathlib/NumberTheory/Fibonacci.lean [hunk 3]
```diff
@@ -0,0 +1,283 @@
...
+    rw [hsum]; push_cast
+    linear_combination hfp1 + hfp
+  exact (ZMod.natCast_eq_zero_iff _ _).mp this
+
+end Main
+
+section ModFive
+
+/-- `5` is prime (as a `Fact`, for use with `legendreSym`). -/
+instance fact_prime_five : Fact (Nat.Prime 5) := ⟨Nat.prime_five⟩
```
Comment (Julian-Kuelshammer) [inline Mathlib/NumberTheory/Fibonacci.lean]: This should probably not be a global instance just declared in this file. I'm not an expert, but I would guess it should just be included in the proofs that need it.

File: Mathlib/NumberTheory/Fibonacci.lean (hunk 2 above)
Comment (Julian-Kuelshammer) [reply Mathlib/NumberTheory/Fibonacci.lean:21]: To me it is still not clear which reference is followed here. References that aren't followed shouldn't be added.

**Comment by Julian-Kuelshammer** [comment]
Please add an AI declaration according to the guidelines.

File: Mathlib/NumberTheory/Fibonacci.lean [hunk 4]
```diff
@@ -0,0 +1,305 @@
...
+    linear_combination (Nat.fib (n + 1) : R) * ha
+
+namespace Nat
+
+noncomputable section Aux
+
+variable (p : ℕ) [hp : Fact p.Prime]
+
+/-- The quadratic `X ^ 2 - X - 1` over `ZMod p`. -/
+private abbrev fibPoly : (ZMod p)[X] := X ^ 2 - X - 1
```
Comment (Julian-Kuelshammer) [inline Mathlib/NumberTheory/Fibonacci.lean:84]: To me it seems that too much in this file is marked private. For example, why declare `fibPoly` at all? hy not write `X ^ 2 - X - 1` each time this is used?

File: Mathlib/NumberTheory/Fibonacci.lean [hunk 5]
```diff
@@ -0,0 +1,305 @@
...
+
+/-! The four concrete facts about squares in `ZMod 5` that the reciprocity step needs, stated at
+top level so that `decide` can evaluate them. -/
+
+private lemma isSquare_one_zmod_five : IsSquare ((1 : ℕ) : ZMod 5) := by decide
+private lemma isSquare_four_zmod_five : IsSquare ((4 : ℕ) : ZMod 5) := by decide
+private lemma not_isSquare_two_zmod_five : ¬ IsSquare ((2 : ℕ) : ZMod 5) := by decide
+private lemma not_isSquare_three_zmod_five : ¬ IsSquare ((3 : ℕ) : ZMod 5) := by decide
+private lemma one_ne_zero_zmod_five : ((1 : ℕ) : ZMod 5) ≠ 0 := by decide
+private lemma four_ne_zero_zmod_five : ((4 : ℕ) : ZMod 5) ≠ 0 := by decide
```
Comment (Julian-Kuelshammer) [inline Mathlib/NumberTheory/Fibonacci.lean:262]: To me, it seems like this PR is not well thought-through. For example why are all these random facts (that seem to be used very few times) added as private lemmas and not just added locally in the proofs that need them? Can't one just replace an invocation of them by (by decide)?
